US05102667
N,N'-Carbonyldiimidazole (1.62 g) is added to a solution of (2-dimethylamino-6-fluorophenyl)acetic acid (1.97 g) in dry dichloromethane (50 cc), cooled to +5° C. The mixture is stirred for 90 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (3.27 g) and triethylamine (2.8 cc) in dichloromethane (50 cc) is then added. The reaction mixture is stirred at 20° C. for 16 hours, then washed with water (2×100 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 4 cm, height 25 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (70/30 by volume) and collecting 50 cc fractions. Fractions 6 to 19 are combined and concentrated to dryness under reduced pressure. The residue is triturated in ethyl ether. The crystals are drained and dried. (3aRS,7aRS)-2-[(2-dimethylamino-6-fluorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone (3.6 g) is obtained in the form of white crystals melting at 210° C.

reactant | (2-dimethylamino-6-fluorophenyl)acetic acid | 1.97 g | CN(C1=C(C(=CC=C1)F)CC(=O)O)C | C10H12FNO2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 3.27 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 2.8 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 50 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[(2-dimethylamino-6-fluorophenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone | 3.6 g | CN(C1=C(C(=CC=C1)F)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C30H31FN2O2
